* source PROJECT1
L_L2         N26997 N08549  1mH  
L_L3         N27038 N08576  1mH  
X_X1         N08549 N38532 N15750 2N5060
I_I4         N37370 0 DC 0Adc AC 0Aac
+PULSE 0 200u 15m 0 0 6.66m 20m
L_L4         N42168 N08844  1mH  
X_X3         N08844 N37370 N15750 2N5060
V_V11         N26997 0  
+SIN 0 311 50 0 0 0
I_I3         N38532 0 DC 0Adc AC 0Aac
+PULSE 0 200u 1.66m 0.01m 0.01m 6.66m 20m
X_X4         0 N38532 N08549 2N5060
X_X2         N08576 N38358 N15750 2N5060
X_X6         0 N37370 N08844 2N5060
V_V12         N27038 0  
+SIN 0 311 50 0 0 120
I_I1         N15750 0 DC 10Adc  
V_V13         N42168 0  
+SIN 0 311 50 0 0 240
I_I5         N38358 0 DC 0Adc AC 0Aac
+PULSE 0 200u 8.33m 0.01m 0.01m 6.66m 20m
X_X5         0 N38358 N08576 2N5060
